US07615549B2
(b) benzyl {(1R,2R)-1-hydroxymethyl-2-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-propyl}-carbamate
Prepared analogously to Example 2b from 4-(4-amino-2-methyl-phenyl)-morpholin-3-one and benzyl [(3R,4R)-4-methyl-5-oxo-tetrahydrofuran-3-yl]-carbamate with trimethylaluminium in THF and subsequent purification by reversed-phase chromatography.

reactant | 4-(4-amino-2-methyl-phenyl)-morpholin-3-one | NC1=CC(=C(C=C1)N1C(COCC1)=O)C | C11H14N2O2
reactant | benzyl [(3R,4R)-4-methyl-5-oxo-tetrahydrofuran-3-yl]-carbamate | C[C@@H]1[C@H](COC1=O)NC(OCC1=CC=CC=C1)=O | C13H15NO4
reactant | trimethylaluminium | C[Al](C)C
solvent | THF | C1CCOC1 | C4H8O
product | benzyl {(1R,2R)-1-hydroxymethyl-2-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-propyl}-carbamate | OC[C@@H]([C@@H](C)C(NC1=CC(=C(C=C1)N1C(COCC1)=O)C)=O)NC(OCC1=CC=CC=C1)=O | C24H29N3O6
